US06476026B1
A solution of tert-butyl 4-[4-(4-methoxycarbonylphenoxymethyl)thiazol-2-yl]piperazine-1-carboxylate (820 mg, 1.89 mmol) in methanol (30 mL) and THF (10 mL) was treated with a solution of sodium hydroxide (226 mg, 5.67 mmol) in water (10 mL). The mixture was stirred at 55° C. for 8 hours and then concentrated by evaporation. The aqueous solution was diluted with water (10 mL) and the dilution was acidified with dilute hydrochloric acid. A resulting solid was collected by filtration to provide 4-[2-(4-tert-butoxycarbonylpiperazin-1-yl)thiazol-4-ylmethoxy]benzoic acid (800 mg, 100% yield). HNMR (dmso-d6): 7.88 (2H, d), 7.09 (2H, d), 6.91 (1H, s), 4.99 (2H, s) 3.44 (8H, m), 1.41 (9H, s).

reactant | tert-butyl 4-[4-(4-methoxycarbonylphenoxymethyl)thiazol-2-yl]piperazine-1-carboxylate | 1.89 mmol, 820 mg | COC(=O)C1=CC=C(OCC=2N=C(SC2)N2CCN(CC2)C(=O)OC(C)(C)C)C=C1 | C21H27N3O5S
reactant | sodium hydroxide | 5.67 mmol, 226 mg | [OH-].[Na+]
solvent | methanol | 30 mL | CO | CH4O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | water | 10 mL | O | H2O
product | 4-[2-(4-tert-butoxycarbonylpiperazin-1-yl)thiazol-4-ylmethoxy]benzoic acid | 800 mg, 100% yield | C(C)(C)(C)OC(=O)N1CCN(CC1)C=1SC=C(N1)COC1=CC=C(C(=O)O)C=C1 | C20H25N3O5S
